US04010177
In the manner given in Example 47, 2',5-dichloro-2-[3-(hydroxymethyl)-5-[(dimethylamino)methyl]-4H-1,2,4-triazol-4-yl]benzophenone is treated first with ethanesulfonyl chloride followed by (cyclopropylmethyl)amine, to give 2',5-dichloro-2-[3-[[(cyclopropylmethyl)amino]methyl]-5-[(dimethylamino)-methyl]-4H-1,2,4-triazol-4-yl]benzophenone.

reactant | 2',5-dichloro-2-[3-(hydroxymethyl)-5-[(dimethylamino)methyl]-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C(=NN=C1CN(C)C)CO)=O | C19H18Cl2N4O2
reactant | ethanesulfonyl chloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | (cyclopropylmethyl)amine | C1(CC1)CN | C4H9N
product | 2',5-dichloro-2-[3-[[(cyclopropylmethyl)amino]methyl]-5-[(dimethylamino)-methyl]-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C(=NN=C1CN(C)C)CNCC1CC1)=O | C23H25Cl2N5O
